US04242518
The compound is prepared by the method described in Example 14(c) from 20.6 parts of 3-hydroxy-2-benzoyldihydrothiophene and 6.75 parts of sulfuryl chloride. 16.7 parts (82% of theory) of 3-hydroxy-2-benzoylthiophene of boiling point 127°-132° C./0.5 mbar and melting point 53°-57° C. are obtained.

reactant | 3-hydroxy-2-benzoyldihydrothiophene | OC1C(SC=C1)C(C1=CC=CC=C1)=O | C11H10O2S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 3-hydroxy-2-benzoylthiophene | 82% | OC1=C(SC=C1)C(C1=CC=CC=C1)=O | C11H8O2S
